Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Lodine / Scopolamine / Augmentin
 
Attending: ___.
 
Chief Complaint:
Abdominal pain
 
Major Surgical or Invasive Procedure:
ERCP
 
History of Present Illness:
___ MEDICINE ATTENDING ADMISSION NOTE .
Date: ___
Time: 1214 AM
_
________________________________________________________________
PCP: Dr. ___
.

CC: ___ pain

_
________________________________________________________________
HPI: 
___ presents for evaluation by ERCP. The patient has a past 
medical history notable for epigastric pain/sternal pain which 
began in ___ and which has been intermittent in nature for 
several years. During that time she had several severe attacks 
and was eventually diagnosed with gallstones and had a 
cholecystectomy on ___ at ___. Her recovery was 
uneventful recovery (although a drain was placed at that time 
per patient because there was also an infection in the liver 
which was resected and given the bleeding a drain was placed).
She developed re-current sternal pain 5 days ago  and went to 
see her PCP. Her LFTs were elevated. She had an US which did not 
reveal an abnormality. 
Her case was d/w Dr. ___ recommended an MRCP which was 
performed earlier today. This study demonstrated a significantly 
enlarged common bile duct compared to her previous study with 
concern for cholangitis and she was sent to the emergency 
department for further evaluation. The patient is currently 
asymptomatic and denies any recent fever, chills, jaundice, 
chest pain, shortness of breath, nausea, vomiting, dysuria, 
bowel changes. 
She has not had sternal pain in the absence of palpation since 
___ the day before she went to her PCP. 
She has pain when someone touches her sternum. She has lost 6 
lbs since she was eating low fat foods. 
 

In ER: (Triage Vitals:0| 97.7|76|159/85|16|100% RA ) 
Meds Given: None
Fluids given: None
Radiology Studies: None
consults called: ERCP
.

PAIN SCALE: ___ 
REVIEW OF SYSTEMS:
CONSTITUTIONAL:  As per HPI
HEENT:  [X] All normal
RESPIRATORY:  [X] All normal
CARDIAC:  [X] All normal
GI:  As per HPI
GU:  [+] dark urine x 3 days
SKIN:  [X] All normal
MUSCULOSKELETAL:  [X] All normal
NEURO:  [X] All normal
ENDOCRINE:  [X] All normal
HEME/LYMPH:  [X]  All normal
PSYCH:  [X] All normal
All other systems negative except as noted above
 
Past Medical History:
(L) ANKLE PAIN
FOLLICULITIS
FOOT PAIN
SINUSITIS
STRESS
URINARY TRACT INFECTION
SMALL INTESTINAL BACTERIAL OVERGROWTH
DIVERTICULAR DISEASE
INTERNAL HEMORRHOIDS
VITAMIN D INSUFFICIENCY
RT FACIAL DISCOMFORT
 
Social History:
___
Family History:
FatherCOLORECTAL CANCER- died at age ___
 CARDIAC DISEASE
BrotherCOLON CANCER
MotherHYPERTENSION
 ANXIETY
SisterHYPERTENSION
 HYPERCHOLESTEROLEMIA
BrotherCAROTID ANEURYSM
Fist cousin died of brain ANEURYSM
 
Physical Exam:
DISCHARGE EXAM:
VS: 98, 130/63, 80, 18, 98% on RA
GEN: NAD, comfortable appearing  
HEENT: ncat anicteric MMM    
CV: s1s2 rr no m/r/g  
RESP: b/l ae no w/c/r  
GI: +bs, soft, non-tender, no rebound or guarding
palpation. No rebound or guarding. 
MSK:no c/c/e 2+pulses  
SKIN: no rash  
NEURO: face symmetric speech fluent  
PSYCH: calm, cooperative  
LAD: No cervical LAD
 
Pertinent Results:
DISCHARGE STUDIES:
___ 05:45AM BLOOD WBC-5.9 RBC-4.13 Hgb-12.4 Hct-37.8 MCV-92 
MCH-30.0 MCHC-32.8 RDW-13.2 RDWSD-44.7 Plt ___
___ 05:45AM BLOOD Glucose-60* UreaN-9 Creat-0.6 Na-138 
K-4.0 Cl-102 HCO3-23 AnGap-17
___ 05:45AM BLOOD ALT-327* AST-83* AlkPhos-300* 
TotBili-2.7*
___ 05:45AM BLOOD Calcium-8.8 Phos-3.3 Mg-1.7

ADMISSION STUDIES:
___ 10:26PM   COMMENTS-GREEN TOP
___ 10:26PM   LACTATE-1.0
___ 10:15PM   GLUCOSE-115* UREA N-13 CREAT-0.7 SODIUM-143 
POTASSIUM-3.6 CHLORIDE-105 TOTAL CO2-24 ANION GAP-18
___ 10:15PM   ALT(SGPT)-682* AST(SGOT)-200* ALK PHOS-338* 
TOT BILI-4.2*
___ 10:15PM   LIPASE-46
___ 10:15PM   ALBUMIN-4.3
___ 10:15PM URINE  HOURS-RANDOM
___ 10:15PM URINE  HOURS-RANDOM
___ 10:15PM URINE  UHOLD-HOLD
___ 10:15PM URINE  GR HOLD-HOLD
___ 10:15PM   WBC-6.5 RBC-4.45 HGB-13.5 HCT-40.9 MCV-92 
MCH-30.3 MCHC-33.0 RDW-13.5 RDWSD-45.7
___ 10:15PM   PLT COUNT-216
___ 10:15PM URINE  COLOR-Yellow APPEAR-Hazy SP ___
___ 10:15PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-TR 
GLUCOSE-NEG KETONE-40 BILIRUBIN-NEG UROBILNGN-2* PH-7.5 LEUK-SM 
___ 10:15PM URINE  RBC-<1 WBC-2 BACTERIA-NONE YEAST-NONE 
EPI-0
___ 10:15PM URINE  AMORPH-RARE
___ 10:15PM URINE  MUCOUS-RARE
___ 05:18PM   CREAT-0.7
___ 05:18PM   CREAT-0.7
___ 08:00AM   ALT(SGPT)-1103* AST(SGOT)-884* ALK PHOS-368* 
TOT BILI-3.5*
___ 08:00AM   LIPASE-50
___ 08:00AM   LIPASE-50
___ 08:00AM   NEUTS-63.9 ___ MONOS-7.9 EOS-1.9 
BASOS-0.8 IM ___ AbsNeut-3.31 AbsLymp-1.31 AbsMono-0.41 
AbsEos-0.10 AbsBaso-0.04
___ 08:00AM   PLT COUNT-234
=========================================
ABDOMINAL US:
___
IMPRESSION:
1. Status post cholecystectomy bowel gas within the gallbladder 
fossa.
2. No evidence of focal fluid collection, drop stones, or CBD 
dilatation.
===========================
MRCP ___
 1. No fluid collection to suggest bile leak or hepatic abscess.
2. Progressive intrahepatic and extrahepatic biliary ductal 
dilatation with
the CBD measuring up to 9mm, previously 5 mm on ___, with 
associated
biliary enhancement suggesting cholangitis. The duct tapers 
smoothly to the
ampulla without evidence of retained gallstones or extrinsic 
compression for
an ampullary mass, although an ampullary mass cannot be entirely 
excluded.
Correlation with ERCP should be considered.
3. Trace right pleural effusion.
4. 1.5 cm left breast cyst is grossly unchanged from the prior 
breast
ultrasound.
5. Multiple small simple hepatic cysts are incidentally noted
======================================
LFTS              ALT     AST                    ALP             
TBILI   
___ 22:15  682*1200*  338* 4.2* 
___ 08:00  1103*884*  368* 3.5* 
___ 11:40  682*868*  251* 2.1* 
 
Brief Hospital Course:
___ year old female with history of biliary disease s/p CCY 
presenting with abdominal pain, biliary obstruction and 
worsening LFTs.

# ABDOMINAL PAIN
# BILIARY OBSTRUCTION:
Patient underwent uncomplicated cholecystectomy at ___ 
___ on ___. Was doing well until two days prior to 
admission, when she presented to her PCP's office with 
epigastric/RUQ pain and transaminitis. MRCP was concerning for 
cholangitis. Patient was afebrile without leukocytosis, making 
cholangitis less likely. She underwent ERCP, that showed CBD 
stricture leading to obstruction. Stents were placed in the 
pancreatic duct and common bile duct. The patient recovered well 
and her diet was successfully advanced. She will complete a 5 
day course of ciprofloxacin. She will need to have the stent 
removed in approximately two weeks.

# GERD: 
Continue PPI

TRANSITIONAL ISSUES:
[ ] Stents need to be removed in approximately two weeks. She 
will be contacted by ERCP to schedule this.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Omeprazole 20 mg PO DAILY 
2. Calcium 600 + D(3) (calcium carbonate-vitamin D3) 600 
mg(1,500mg) -200 unit oral Frequency is Unknown 
3. Cetirizine 10 mg PO DAILY:PRN allergies 
4. Vitamin D 800 UNIT PO DAILY 
5. cranberry Dose is Unknown mg oral Unknown 
6. Lactobacillus acidophilus UNKNOWN mg oral DAILY 

 
Discharge Medications:
1. Omeprazole 20 mg PO DAILY 
2. Vitamin D 800 UNIT PO DAILY 
3. Calcium 600 + D(3) (calcium carbonate-vitamin D3) 600 
mg(1500mg) 1 tab ORAL DAILY 
4. Cetirizine 10 mg PO DAILY:PRN allergies 
5. cranberry Dose is Unknown  ORAL Frequency is Unknown 
6. Lactobacillus acidophilus UNKNOWN  ORAL DAILY 
7. Ciprofloxacin HCl 500 mg PO Q12H Duration: 5 Days 
RX *ciprofloxacin HCl 500 mg 1 tablet(s) by mouth twice a day 
Disp #*7 Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Biliary obstruction

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___,

___ was a pleasure taking care of you. You were admitted to the 
hospital because of abnormal liver tests and an MRI of your 
liver (MRCP) that was concerning for infection of the bile 
ducts. 

You underwent a procedure called ERCP with placement of two 
stents (one in the pancreatic duct and another in the common 
bile duct). You will need to have those stents removed in 
approximately two weeks. The ERCP doctors ___ contact ___, but 
if you do not hear from them in the next few days regarding a 
time for your procedure, please call them at ___ to 
make sure it gets scheduled.

If you have worsening abdominal pain, fevers, vomiting, or other 
symptoms that concern you, please contact your primary care, the 
ERCP doctors, or return to the hospital for further care.

Sincerely,
Your ___ team
 
Followup Instructions:
___